US07060827B2
In a like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 3,5-dichloro-4-hydroxyaniline were reacted to produce N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3,5-dichloro-4-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.50 (bs, 1H), 9.26 (bd, 2H, J=7.5 Hz), 8.06 (d, 1H, J=3.9 Hz), 7.65 (s, 2H), 7.18–7.13 (m, 2H), 6.80 (d, 1H, J=9.0 Hz), 4.20 (s, 4H); LCMS: purity: 100%; MS (m/e): 424(MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 3,5-dichloro-4-hydroxyaniline | ClC=1C=C(N)C=C(C1O)Cl | C6H5Cl2NO
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3,5-dichloro-4-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=C(C(=C1)Cl)O)Cl | C18H13Cl2FN4O3
